US05175301
N-(2,6-Dichloro-3-pyridylmethyl)-N-methylamine
In 50 ml of acetonitrile was dissolved 7.8 g (0.1 mole) of 40% aqueous methylamine and with stirring and ice-cooling, a solution of 3.9 g (0.02 mole) of 2,6-dichloro-3-pyridylmethyl chloride in 10 ml of acetonitrile was added dropwise over 5 minutes. After completion of the dropwise addition, the mixture was stirred at room temperature for 2 hours and, then, concentrated. The residue was extracted with ether (30 ml×3) and dried over MgSO4. Finally, the solvent was distilled off to give 3.2 g of the title compound as a pale yellow oil.

reactant | methylamine | 0.1 mole, 7.8 g | CN | CH5N
reactant | 2,6-dichloro-3-pyridylmethyl chloride | 0.02 mole, 3.9 g | ClC1=NC(=CC=C1CCl)Cl | C6H4Cl3N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | N-(2,6-Dichloro-3-pyridylmethyl)-N-methylamine | 3.2 g | ClC1=NC(=CC=C1CNC)Cl | C7H8Cl2N2
